US07820823B2
N-{(5S)-3-[4-(Azetidin-3-ylamino)-3-fluoro-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
A suspension of 1.11 g of 3-({4-[(5S)-5-(acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-benzyloxycarbonyl-amino)-azetidine-1-carboxylic acid benzyl ester (1.88 mmol) and 200 mg Pd/c 10% in methanol was stirred under hydrogen for 5 h. The Pd/C was filtered and the filtrate evaporated to dryness.

reactant | 3-({4-[(5S)-5-(acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-benzyloxycarbonyl-amino)-azetidine-1-carboxylic acid benzyl ester | 1.88 mmol, 1.11 g | C(C1=CC=CC=C1)OC(=O)N1CC(C1)N(C(=O)OCC1=CC=CC=C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C31H31FN4O7
solvent | methanol | CO | CH4O
catalyst | Pd | 200 mg | [Pd] | Pd
product | N-{(5S)-3-[4-(Azetidin-3-ylamino)-3-fluoro-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | N1CC(C1)NC1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C15H19FN4O3
